US04088652
Following the procedure described in Example 1 the compound 1-(p-chlorophenyl)-1,2-cyclopropanedicarboximide (U.S. Pat. No. 3,344,026--Example 1) is reduced with sodium bis(2-methoxyethoxy)aluminum hydride 70% solution in benzene to produce the compound 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane.

reactant | 1-(p-chlorophenyl)-1,2-cyclopropanedicarboximide | C1C2C1(C(=O)NC2=O)C3=CC=C(C=C3)Cl | C11H8ClNO2
reactant | sodium bis(2-methoxyethoxy)aluminum hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-p-chlorophenyl-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C=C1)C12CNCC2C1 | C11H12ClN
